US04034088
3-Acetoxymethyl-2-carboxy-7-[(2-methylsulphinylimidazol-1-yl)-acetamido]-8-oxo-5-thia-1-aza-bicyclo[4,2,0]-oct-2-ene (8.5 g.) and sodium bicarbonate (1.62 g.) are dissolved in water (75 cc.). A solution of 2-methyl-5-thioxo-1,3,4-thiadiazoline (2.54 g.) and sodium bicarbonate (1.62 g.) in water (75 cc.) is added and the mixture is heated at 60° C. for 6 hours. After cooling, the pH is adjusted to 6 by adding hydrochloric acid (4 N) and the mixture is washed twice with ethyl acetate (a total of 200 cc.). The mixture is acidified to pH 2 by adding hydrochloric acid (4 N); a product precipitates and is filtered off and dried under reduced pressure (1 mm.Hg) to give 7.9 g. of product. Recrystallisation from methanol (25 cc.), filtration and drying under reduced pressure (0.1 mm.Hg) gives 2-carboxy-3-[(5-methyl-1,3,4-thiadiazol-2-yl)-thiomethyl]-7-[(2-methylsulphinyl-imidazol-1-yl)-acetamido]-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene (2.7 g.), m.p. 227° C. (with decomposition), [α]D20 = -35° ± 1° (c= 1, dimethylformamide).

reactant | 3-Acetoxymethyl-2-carboxy-7-[(2-methylsulphinylimidazol-1-yl)-acetamido]-8-oxo-5-thia-1-aza-bicyclo[4,2,0]-oct-2-ene | 8.5 g | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(CN1C(=NC=C1)S(=O)C)=O)=O)C(=O)O | C16H18N4O7S2
reactant | sodium bicarbonate | 1.62 g | C([O-])(O)=O.[Na+]
reactant | 2-methyl-5-thioxo-1,3,4-thiadiazoline | 2.54 g | CC=1SC(NN1)=S | C3H4N2S2
reactant | sodium bicarbonate | 1.62 g | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | water | 75 cc | O | H2O
solvent | water | 75 cc | O | H2O
product | 2-carboxy-3-[(5-methyl-1,3,4-thiadiazol-2-yl)-thiomethyl]-7-[(2-methylsulphinyl-imidazol-1-yl)-acetamido]-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene | 2.7 g | C(=O)(O)C=1N2C(C(C2SCC1CSC=1SC(=NN1)C)NC(CN1C(=NC=C1)S(=O)C)=O)=O | C17H18N6O5S4
